Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right shoulder pain
 
Major Surgical or Invasive Procedure:
Right reverse total shoulder arthroplasty

 
History of Present Illness:
___ he is an ___ woman who sustained 
traumatic injury to her right shoulder in ___. She was 
diagnosed with a right proximal humerus fracture. She went on to 
developing on ___ resulting in a Post traumatic glenohumeral 
arthropathy. For this reason, she elected to proceed with a 
white reverse total shoulder arthroplasty. Arrangements were 
made for her to be taken to the operating room on ___.
 
Past Medical History:
1. Asthma
2. Dyslipidemia
3. Remote history of atrial fibrillation
 
Social History:
___
Family History:
Review family history is noncontributory for any significant 
musculoskeletal disease.
 
Physical Exam:
Afebrile
The Right shoulder dressing is clean and dry.
She is intact Distally with positive APB, EPL,ADQ
 The fingers are warm to touch with good capillary refill 

 
Brief Hospital Course:
The patient was admitted to the Orthopaedic Sports Medicine 
Service for post-traumatic  glenohumeral arthropathy.  The 
patient was taken to the OR and underwent a right reverse total 
shoulder arthroplasty . Please see operative report for full 
details. The patient tolerated the procedure without difficulty 
and was transferred to the PACU in stable condition, and then 
transferred to the floor in the usual fashion. Postoperatively, 
pain was controlled with an interscalene nerve block, with 
transition to oral pain medication as tolerated. Perioperative 
antibiotics and Aspirin for DVT prophylaxis were given as per 
routine. Diet was advanced without complication and the patient 
made steady progress. The hospitalization has otherwise been 
uneventful and the patient has done well.
  
 At discharge, vital signs are stable, the patient is afebrile, 
tolerating a regular diet, voiding spontaneously every shift and 
pain is well controlled. The extremities are neurovascularly 
intact distally throughout the right upper extremity. All 
incisions are clean, dry and intact without evidence of 
infection, hematoma or seroma.
  
 The patient is discharged to rehab in stable condition.  
Patient given detailed precautionary instructions and 
instructions for the appropriate follow up care. 

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Simvastatin 20 mg PO QPM 
3. Multivitamins 1 TAB PO DAILY 
4. OxyCODONE (Immediate Release) 5 mg PO DAILY:PRN Pain - 
Moderate 
5. MethylPHENIDATE (Ritalin) 5 mg PO DAILY 
6. Escitalopram Oxalate 20 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 
8. Fluticasone Propionate 110mcg 2 PUFF IH BID wheezing 
9. BuPROPion (Sustained Release) 100 mg PO BID 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY 
Please use for a total of 6 weeks after surgery.  
2.  Acetaminophen 1000 mg PO TID  
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain  
4.  BuPROPion (Sustained Release) 100 mg PO BID  
5.  Escitalopram Oxalate 20 mg PO DAILY  
6.  Fluticasone Propionate 110mcg 2 PUFF IH BID wheezing  
7.  MethylPHENIDATE (Ritalin) 5 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Simvastatin 20 mg PO QPM  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right post-traumatic arthropathy (Proximal humerus ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Reverse Total Shoulder Arthroplasty
 Post-Operative Instructions
(with/without Biceps Tenodesis)

Medications
You will be given a prescription for pain medicine.  The pain 
medication is a codeine derivative and should be taken as 
directed.  

Please take one full strength aspirin (81 mg) each day for six 
weeks to decrease the risk of having a complication related to a 
blood clot.

Please take a stool softener, like Colace (Docusate Sodium 
100mg), twice a day while taking narcotics to prevent 
constipation.

Dressing
Leave your dressing on for 48 hours after your surgery.  After 
48 hours, you may remove your dressing.  LEAVE THE TAPE STRIPS 
OVER YOUR INCISIONS.  These will stay on for 1.5 to 2 weeks and 
will peel off slowly.

Showering
You may shower 72 hours after your surgery and get your 
incisions wet.  Do NOT immerse in a tub or pool for 7 – 10 days 
to avoid excessive scarring and risk of infection.

When you shower, let your arm hang at your side. Do NOT raise or 
lift your arm.  

To wash under your arm, lean forward carefully and let your arm 
hang.  Using your other hand, wash under your operative arm.  Do 
NOT scrub the incision.  

When you are done washing, stand up and let your arm hang at 
your side.  

Pat yourself dry and put your sling on.

Ice Packs
Keep Ice Packs on at all times exchanging every hour while 
awake.  Icing is very important to decrease swelling and pain 
and improve mobility.  After 24 hours, continue to use the ice 3 
– 4 times a day, 15 – 20 minutes each time to keep swelling to a 
minimum.

Activity
•Take it easy.
•Wear your sling. 
•Keep your arm at your side at ALL TIMES – no reaching, 
grabbing or pulling with your operative arm.

When to Contact Us
If you experience severe pain that your pain medication does not 
help, please let us know.

If you have a temperature over 101.5º, please contact our office 
at ___.

Physical Therapy:
Sling/NWB RUE x 6 weeks
NO FORMAL SHOULDER ROM EXERCISE INCLUDING PENDELUMS
Treatments Frequency:
Dressing changes beginning on ___ as needed for any 
persistent wound drainage. 
 
Followup Instructions:
___